US06083961
To a solution of 4-[3-(N-glycyl-N-methylamino) -2,6-dichlorobenzyloxy]-1,2-dimethyl-1H-benzimidazole (80 mg) in dichloromethane (0.8 ml) were added pyridine (23.3 mg) and acetic anhydride (30.1 mg) at ambient temperature, and the mixture was stirred for 1 hour at the same temperature. The solvent was removed with toluene azeotropically three times. The residue was purified by preparative thin layer chromatography (dichloromethane:methanol=10:1, v/v) to give 4-[3-[N-(acetylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-1,2-dimethyl-1H-benzimidazole (75 mg).

reactant | 4-[3-(N-glycyl-N-methylamino) -2,6-dichlorobenzyloxy]-1,2-dimethyl-1H-benzimidazole | 80 mg | NCC(=O)N(C)C=1C(=C(COC2=CC=CC=3N(C(=NC32)C)C)C(=CC1)Cl)Cl | C19H20Cl2N4O2
reactant | pyridine | 23.3 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 30.1 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
product | 4-[3-[N-(acetylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-1,2-dimethyl-1H-benzimidazole | 75 mg | C(C)(=O)NCC(=O)N(C)C=1C(=C(COC2=CC=CC=3N(C(=NC32)C)C)C(=CC1)Cl)Cl | C21H22Cl2N4O3
